US08957074B2
Following general N—C coupling procedure 1, (R)-3-(6-Amino-pyridin-3-yl)-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester was combined with 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide which gave (R)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester as a white solid (0.175 g, 0.272 mmol) in 66% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (s, 9H) 1.61-1.78 (m, 3H) 1.79-1.96 (m, 3H) 1.96-2.14 (m, 7H) 2.38-2.48 (m, 2H) 3.06 (d, J=10.54 Hz, 6H) 3.20-3.33 (m, 2H) 3.36-3.63 (m, 2H) 3.82-3.97 (m, 2H) 4.75 (quin, J=8.78 Hz, 1H) 6.63 (5, 1H) 7.98 (d, J=9.03 Hz, 1H) 8.34 (d, J=9.54 Hz, 1H) 8.44 (s, 1H) 8.81 (s, 1H) 9.78 (s, 1H). MS m/z 619.5 (M+H)+.

reactant | (R)-3-(6-Amino-pyridin-3-yl)-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC[C@@]2(CN(C(O2)=O)C=2C=NC(=CC2)N)CCC1 | C18H26N4O4
reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | (R)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester | 0.272 mmol, 0.175 g, 66% yield | C(C)(C)(C)OC(=O)N1CC[C@@]2(CN(C(O2)=O)C=2C=NC(=CC2)NC=2N=CC3=C(N2)N(C(=C3)C(N(C)C)=O)C3CCCC3)CCC1 | C32H42N8O5
